US06706663B2
Preparation of 3-Acetyl-2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]thiazolidine
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (0.500 g, 1.41 mmol), 2-aminoethanethiol (0.13 g, 1.69 mmol), ethanol and tetrahydrofuran is stirred overnight at room temperature. The mixture is concentrated in vacuo and the residue taken up in methylene chloride. The resultant mixture is treated with triethylamine (0.340 ml, 2.41 mmol), then acetyl chloride (0.120 ml, 1.69 mmol), stirred 90 minutes and poured into water. The resultant mixture is diluted with methylene chloide. The organic layer is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to a white solid, which is chromatographed on silica gel with methanol-methylene chloride to afford the title compound as a white solid (0.600 g, 93.3%, mp 135-140° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 1.41 mmol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | 2-aminoethanethiol | 1.69 mmol, 0.13 g | NCCS | C2H7NS
reactant | triethylamine | 2.41 mmol, 0.340 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.69 mmol, 0.120 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 3-Acetyl-2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]thiazolidine | 0.600 g, 93.3% | C(C)(=O)N1C(SCC1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H15F3N4O3S2
